US04554006
N-Allyl-N-[2-methyl-3-(o-methyl-phenyl)-propyl]-pyrrolidinium bromide (Example 24)
A solution of 51 g of N-[2-methyl-3-(o-methyl-phenyl)-propyl]-pyrrolidine and 58 g of allyl bromide in 200 ml of ethyl acetate is refluxed for 5 hours. The product precipitates as a resin. After the ethyl acetate has been decanted, the crude product is triturated several times with ethyl acetate. Supernatant solvent is decanted. Finally, the product is triturated with n-pentane and the solvent decanted. The oil which remains is freed from solvent residues in a rotary evaporator. There remains 60 g of N-allyl-N-[2-methyl-3-(o-methyl-phenyl)-propyl]-pyrrolidinium bromide as a brown resin.

reactant | N-[2-methyl-3-(o-methyl-phenyl)-propyl]-pyrrolidine | 51 g | CC(CN1CCCC1)CC1=C(C=CC=C1)C | C15H23N
reactant | allyl bromide | 58 g | C(C=C)Br | C3H5Br
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-Allyl-N-[2-methyl-3-(o-methyl-phenyl)-propyl]-pyrrolidinium bromide | [Br-].C(C=C)[N+]1(CCCC1)CC(CC1=C(C=CC=C1)C)C | InChI=1S/C18H28N.BrH/c1-4-11-19(12-7-8-13-19)15-16(2)14-18-10-6-5-9-17(18)3;/h4-6,9-10,16H,1,7-8,11-15H2,2-3H3;1H/q+1;/p-1
